US05939448
Using 2-(2,4-difluorophenyl)-1,1-difluoro-1-(2-methoxyethyl)thio-2,3-epoxypropane (13.0 g, 0.044 mol), DMSO (100 ml), 1,2,4-triazole (7.6 g, 0.11 mol) and potassium carbonate (15.2 g, 0.11 mol), 2-(2,4-difluorophenyl)-1,1-difluoro-1-(2-methoxyethyl)thio-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (2.0 g, yield: 12.0%) was obtained as colorless crystals by similar procedures to Example 14.

reactant | 2-(2,4-difluorophenyl)-1,1-difluoro-1-(2-methoxyethyl)thio-2,3-epoxypropane | 0.044 mol, 13.0 g | FC1=C(C=CC(=C1)F)C1(C(SCCOC)(F)F)CO1 | C12H12F4O2S
reactant | 1,2,4-triazole | 0.11 mol, 7.6 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.11 mol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 2-(2,4-difluorophenyl)-1,1-difluoro-1-(2-methoxyethyl)thio-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 2.0 g, yield: 12.0% | FC1=C(C=CC(=C1)F)C(C(SCCOC)(F)F)(CN1N=CN=C1)O | C14H15F4N3O2S
